US04243666
2-(1-Benzylpiperidin-4-oxy)acetic acid, hydrochloride, prepared similarly to Preparation L Part A, was converted to its methyl ester by refluxing in methanol plus concentrated hydrochloric acid. Methyl 2-(1-benzylpiperidin-4-oxy)acetate (10 g) and ethylamine (50 ml) with 3 A molecular sieves were heated in a bomb at 120° for 6 hours. The solvent was then evaporated in vacuo, the residue triturated with ether, filtered and the filtrate evaporated to give N-ethyl-2-(1-benzylpiperidin-4-oxy)acetamide (7.7 g) as an oil. This product (7.0 g) in ethanol (150 ml) was hydrogenated over 5% palladium on charcoal (Engelhardt special debenzylation catalyst) at 50° and 50 p.s.i.

reactant | 2-(1-Benzylpiperidin-4-oxy)acetic acid, hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OCC(=O)O
reactant | hydrochloric acid | Cl | ClH
reactant | Methyl 2-(1-benzylpiperidin-4-oxy)acetate | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)OCC(=O)OC | C15H21NO3
reactant | ethylamine | 50 ml | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | N-ethyl-2-(1-benzylpiperidin-4-oxy)acetamide | 7.7 g | C(C)NC(COC1CCN(CC1)CC1=CC=CC=C1)=O | C16H24N2O2
